US08710255B2
To a solution of 10 g (S)-2-amino-4-methoxy-4-oxobutanoic acid hydrochloride in 400 ml methanol was added 15 g sodium carbonate, and the mixture was stirred at 25° C. Twenty (20) g benzyl chloride was then added dropwise at this temperature. After completion of the reaction, the mixture was maintained at this temperature for 12 h. The reaction solution was neutralized with a diluted aqueous hydrochloride acid solution to produce a neutralized solution. Methanol was evaporated, and the residue was partitioned and extracted with ethyl acetate. The organic layer was concentrated and then washed with water 2˜3 times to afford 16 g crude (S)-2-(benzylamino)-4-methoxy-4-oxobutanoic acid, with a yield of 91.3%.

reactant | (S)-2-amino-4-methoxy-4-oxobutanoic acid hydrochloride | 10 g | Cl.N[C@H](C(=O)O)CC(=O)OC
reactant | sodium carbonate | 15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloride | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
product | (S)-2-(benzylamino)-4-methoxy-4-oxobutanoic acid | 16 g, yield of 91.3% | C(C1=CC=CC=C1)N[C@H](C(=O)O)CC(=O)OC | C12H15NO4
